US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-2,2-dimethyl-4-[4-(2-pyridinylmethoxy)benzyl]-1,3-oxazolidine-3-carboxylate
0.1 g of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate, 0.03 g of o-picolylchloride-hydrochloride and 0.15 g of cesium carbonate were suspended in 0.5 mL of dimethyl formamide and heated to 60 degrees for 3 h. The mixture was diluted with ethyl acetate and washed with water. Chromatography on silica gel (9:1 ethyl acetate/hexanes) gave 72 mg of the desired material

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.1 g | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)O | C32H42N2O10S
reactant | o-picolylchloride-hydrochloride | 0.03 g | Cl.N1=C(C=CC=C1)CCl
reactant | cesium carbonate | 0.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-2,2-dimethyl-4-[4-(2-pyridinylmethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | 72 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)OCC1=NC=CC=C1 | C38H47N3O10S
